US06620828B2
To a solution of 4-(aminosulfonyl)phenylisothiocyanate (1.12 g, 5.0 mmol) and cyanamide (0.23 g, 5.5 mmol) in acetonitrile (50 ml) was added DBU (0.83 g, 5.5 mmol), and the resulting mixture was stirred at room temperature for 60 minutes. To the reaction mixture was added bromo-acetonitrile (0.66 g, 5.5 mmol) followed by DBU (0.83 g, 5.5 mmol) 30 minutes afterward. The reaction mixture was stirred overnight at room temperature, the solvent was removed at the reduced pressure, and the residue was dissolved in EtOAc (200 ml). The EtOAc solution was washed with 0.1 N HCl (150 ml×3) and brine and dried with MgSO4 and concentrated. The residue was purified by silica gel chromatography (EtOAc) to provide 0.73 g (48%) of 2-(4-aminosulfonylphenyl)amino-4-amino-thiazole-5-carbonitrile.

reactant | 4-(aminosulfonyl)phenylisothiocyanate | 5.0 mmol, 1.12 g | NS(=O)(=O)C1=CC=C(C=C1)N=C=S | C7H6N2O2S2
reactant | cyanamide | 5.5 mmol, 0.23 g | N#CN | CH2N2
reactant | DBU | 5.5 mmol, 0.83 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | bromo-acetonitrile | 5.5 mmol, 0.66 g | BrCC#N | C2H2BrN
reactant | DBU | 5.5 mmol, 0.83 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-(4-aminosulfonylphenyl)amino-4-amino-thiazole-5-carbonitrile | 0.73 g, 48% | NS(=O)(=O)C1=CC=C(C=C1)NC=1SC(=C(N1)N)C#N | C10H9N5O2S2
